US05354501
1.0 g (3.1 mM) of 2-octyl-6-amidino-1-indanone hydrochloride, 0.38 g (7.0 mM) of sodium methylate, 0.78 g (3.26 mM) of α-decyl-β-dimethylaminoacrolein and 10 ml of methanol were placed in a 10 ml-round bottomed flask, followed by refluxing for 17 hours under stirring. After the reaction, the reaction mixture was cooled on an ice water bath to precipitate a crystal. The crystal was recovered by filtration and purified by silica gel column chromatography (eluent: toluene/ethyl acetate=100/1), followed by recrystallization from a mixture solvent (toluene/methanol) to obtain 0.59 g of 2-octyl-6-(5-decylpyrimidine-2-yl)-1-indanone (Yield: 41%, m.p.=83° C.).

reactant | 2-octyl-6-amidino-1-indanone hydrochloride | 3.1 mM, 1.0 g | Cl.C(CCCCCCC)C1C(C2=CC(=CC=C2C1)C(N)=N)=O
reactant | sodium methylate | 7.0 mM, 0.38 g | C[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 2-octyl-6-(5-decylpyrimidine-2-yl)-1-indanone | 0.59 g, Yield: 41% | C(CCCCCCC)C1C(C2=CC(=CC=C2C1)C1=NC=C(C=N1)CCCCCCCCCC)=O | C31H46N2O
